US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-2,4-diphenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
A mixture of 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (14 mg, 0.039 mmol), phenylboronic acid (5.6 mg, 0.046 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with DCM (1:1) (2 mg, 0.002 mmol) and potassium carbonate (16 mg, 0.12 mmol) in 1,4-dioxane (0.2 mL), and water (0.1 mL). The resulting mixture was heated at 80° C. for 3 h. The reaction mixture was diluted with MeOH and purified on Preparative LCMS using pH 10 buffer to give the desired compound.

reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.039 mmol, 14 mg | ClC1=NC2=CC=C(C3=C2N1C(CO3)C3=CC=CC=C3)C=3C(=NOC3C)C | C20H16ClN3O2
reactant | phenylboronic acid | 0.046 mmol, 5.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DCM | 0.002 mmol, 2 mg | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 0.12 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.1 mL | O | H2O
product | 7-(3,5-Dimethylisoxazol-4-yl)-2,4-diphenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C(=N2)C2=CC=CC=C2)C | C26H21N3O2
